US04906285
Ammonium 2,6-bis[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate (Compound No. 22)
2,6-bis[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoic acid (5.1 g) and 28% aqueous ammonia (1.7 g) were mixed with a solvent mixture of THF/ethanol. Precipitated crystals were washed with acetone to obtain the above identified compound as white crystals (3.7 g). (Melting point: 135°-140° C.

reactant | 2,6-bis[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoic acid | 5.1 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)O)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC | C19H18N4O8
reactant | ammonia | 1.7 g | N | H3N
solvent | THF ethanol | C1CCOC1.C(C)O
product | Ammonium 2,6-bis[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)[O-])C(=CC=C1)OC1=NC(=CC(=N1)OC)OC.[NH4+] | InChI=1S/C19H18N4O8.H3N/c1-26-12-8-13(27-2)21-18(20-12)30-10-6-5-7-11(16(10)17(24)25)31-19-22-14(28-3)9-15(23-19)29-4;/h5-9H,1-4H3,(H,24,25);1H3
